US09062056B2
(S)-3-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-5-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-hexanoic acid ethyl ester
To a solution of (S)-3-(5-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-hexanoic acid ethyl ester (247 mg, 0.85 mmol) in DMF (5 mL) were added K2CO3 (234 mg, 1.7 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide (438 mg, 1.27 mmol). The reaction mixture was heated to 60° C. for 48 hours. The reaction mixture was diluted with ethyl acetate and washed with water (×4). The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 170 mg (45%) of the title compound. LCMS, M++1, m/z: 449.47.

reactant | (S)-3-(5-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-hexanoic acid ethyl ester | 0.85 mmol, 247 mg | C(C)OC(C[C@H](CCC)N1C(NC=2C1=NC(=CC2)C)=O)=O | C15H21N3O3
reactant | K2CO3 | 1.7 mmol, 234 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide | 1.27 mmol, 438 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-5-methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-hexanoic acid ethyl ester | 170 mg, 45% | C(C)OC(C[C@H](CCC)N1C(N(C=2C1=NC(=CC2)C)CC2=CN(C1=CC=CC(=C21)C)C)=O)=O | C26H32N4O3
